US08557809B2
Step H: Preparation of tert-butyl (1-(2-(7-iodo-[1,2,4]triazolo[4,3-a]pyridin-3-yl)quinolin-8-yl)piperidin-4-yl)methylcarbamate
To (E)-tert-butyl (1-(2-((2-(4-iodopyridin-2-yl)hydrazono)methyl)quinolin-8-yl)piperidin-4-yl)methylcarbamate (178 mg, 0.304 mmol) was added iodobenzene diacetate (IBD) (127 mg, 0.395 mmol). The reaction was stirred for 2 hours. Additional IBD (0.5 eq) was added and the reaction was stirred for another 2 hours and then quenched with saturated Na2S2O3 (5 mL). The organic layer was extracted with DCM, dried (Na2SO4) and concentrated. The crude material was purified by silica gel chromatography (EtOAc/Hexane/MeOH 2:1:0.1) to provide the final product.

reactant | (E)-tert-butyl (1-(2-((2-(4-iodopyridin-2-yl)hydrazono)methyl)quinolin-8-yl)piperidin-4-yl)methylcarbamate | 0.304 mmol, 178 mg | IC1=CC(=NC=C1)N\N=C\C1=NC2=C(C=CC=C2C=C1)N1CCC(CC1)CNC(OC(C)(C)C)=O | C26H31IN6O2
reactant | iodobenzene diacetate | 0.395 mmol, 127 mg | C(C)(=O)O.C(C)(=O)O.IC1=CC=CC=C1
reactant | IBD | 0.5 eq | C(C)(=O)O.C(C)(=O)O.IC1=CC=CC=C1
product | tert-butyl (1-(2-(7-iodo-[1,2,4]triazolo[4,3-a]pyridin-3-yl)quinolin-8-yl)piperidin-4-yl)methylcarbamate | IC1=CC=2N(C=C1)C(=NN2)C2=NC1=C(C=CC=C1C=C2)N2CCC(CC2)CNC(OC(C)(C)C)=O | C26H29IN6O2
